US06774136B2
The reaction of 8.5 g (0.100 mol) morpholine and 7.0 g (0.050 mol) 2-methoxybenzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 3.9 g (0.050 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 7.1 g (corresponding to 58% of the yield calculated by theory) 4-(2-methyl-benzylidene)-morpholin-4-ium chloride.

reactant | morpholine | 0.100 mol, 8.5 g | N1CCOCC1 | C4H9NO
reactant | 2-methoxybenzaldehyde | 0.050 mol, 7.0 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | acetyl chloride | 0.050 mol, 3.9 g | C(C)(=O)Cl | C2H3ClO
product | 4-(2-methyl-benzylidene)-morpholin-4-ium chloride | [Cl-].CC1=C(C=[N+]2CCOCC2)C=CC=C1 | InChI=1S/C12H16NO.ClH/c1-11-4-2-3-5-12(11)10-13-6-8-14-9-7-13;/h2-5,10H,6-9H2,1H3;1H/q+1;/p-1
